US07217723B2
(1S)-1-(4-Fluorophenyl)-2-(methylamino)ethanol
To a solution of (2S)-[2-(4-fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester (1.25 g) in ethyl acetate was added dropwise a solution of 4N hydrochloric acid-ethyl acetate (40 mL). The solution was allowed to stand at room temperature for 1 hour. After removing the solvent by evaporation, the solution was alkalinized by addition of an aqueous solution of 5N sodium hydroxide, and saturated with sodium chloride. The solution was extracted with dichloromethane, then washed with saturated sodium chloride water. After drying with anhydrous sodium sulfate, the solvent was removed by evaporation. The resulting solid in a mixed solvent of diethyl ether-hexane was collected by filtration, and the title compound (480 mg) was obtained as a colorless solid. The NMR data matched the racemic mixture described in Preparation Example 17.

reactant | (2S)-[2-(4-fluorophenyl)-2-hydroxyethyl]methylcarbamic acid t-butyl ester | 1.25 g | C(C)(C)(C)OC(N(C)C[C@@H](O)C1=CC=C(C=C1)F)=O | C14H20FNO3
reactant | hydrochloric acid ethyl acetate | 4N, 40 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-1-(4-Fluorophenyl)-2-(methylamino)ethanol | 480 mg | FC1=CC=C(C=C1)[C@@H](CNC)O | C9H12FNO
